US06320050B1
A solution of diisopropylamine (559 μL, 3.99 mmol) in dry tetrahydrofuran (1.2 mL) was cooled to −78° C. under nitrogen and then treated with a 2.5M solution of n-butyllithium in hexanes (1.6 mL, 3.99 mmol). The resulting reaction mixture was allowed to warm to 0° C. and then was treated with 3-cyclopentyl-2-(4-methanesulfonyl-phenyl)-N-thiazol-2-yl-propionamide (463.1 mg, 1.22 mmol) in small portions. The reaction mixture turned orange in color. The reaction mixture was then allowed to warm to 25° C. where it was stirred for 30 min. After 30 min at 25° C., the reaction mixture was cooled back down to 0° C. and then treated with a 1M solution of tributylborane in tetrahydrofuran (1.8 mL, 1.84 mmol). The resulting reaction mixture was stirred at 0° C. for 10 min then allowed to warm to 25° C. The reaction mixture was stirred at 25° C. for 30 min then heated under reflux for 20 h. The reaction mixture was cooled to 0° C. and then treated with water (3 mL) followed by sodium acetate (702.5 mg, 8.56 mmol) and then finally hydroxyamine-O-sulfonic acid (484.2 mg, 4.28 mmol). The resulting reaction mixture was stirred at 0° C. for 30 min then allowed to warm to 25° C. where it was stirred for 44 h. The reaction mixture was concentrated in vacuo to remove tetrahydrofuran. The resulting aqueous residue was diluted with ethyl acetate (150 mL). The organic layer was washed with a saturated aqueous sodium bicarbonate solution (1×100 mL) and a saturated aqueous sodium chloride solution (1×100 mL), dried over sodium sulfate, filtered, and concentrated in vacuo. Flash chromatography (Merck Silica gel 60, 70-230 mesh, 3/2 hexanes/ethyl acetate) afforded 3-cyclopentyl-2-(4-sulfamoyl-phenyl)-N-thiazol-2-yl-propionamide (191.8 mg, 72%) as a white solid: mp 179-181° C.; EI-HRMS m/e calcd for C17H21N3O2S2 (M+) 379.1024, found 379.1029.

reactant | diisopropylamine | 3.99 mmol, 559 μL | C(C)(C)NC(C)C | C6H15N
reactant | n-butyllithium | C(CCC)[Li]
reactant | 3-cyclopentyl-2-(4-methanesulfonyl-phenyl)-N-thiazol-2-yl-propionamide | 1.22 mmol, 463.1 mg | C1(CCCC1)CC(C(=O)NC=1SC=CN1)C1=CC=C(C=C1)S(=O)(=O)C | C18H22N2O3S2
reactant | tributylborane | C(CCC)B(CCCC)CCCC | C12H27B
reactant | sodium acetate | 8.56 mmol, 702.5 mg | C(C)(=O)[O-].[Na+]
reactant | hydroxyamine-O-sulfonic acid | 4.28 mmol, 484.2 mg | ONS(=O)(=O)O | H3NO4S
solvent | tetrahydrofuran | 1.2 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 1.84 mmol, 1.8 mL | O1CCCC1 | C4H8O
solvent | water | 3 mL | O | H2O
product | 3-cyclopentyl-2-(4-sulfamoyl-phenyl)-N-thiazol-2-yl-propionamide | 191.8 mg, 72% | C1(CCCC1)CC(C(=O)NC=1SC=CN1)C1=CC=C(C=C1)S(N)(=O)=O | C17H21N3O3S2
